data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5530,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.COC1=C(OC)C=C(C=[O:3])C(Br)=C1.OCCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3590,"CC(CC=O)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,33,"CC[O+:1](C(OC)C(C)C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4816,"CC1=CC=C([S:1](=O)([NH2+]CCC2=C(I)C=C3OCOC3=C2)([O-:2])[Cl:3])C=C1.CC[NH+](CC)CC.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8381,"CC[SH:1].N[C:2]([CH:3]=[CH2:4])=[OH+:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,3903,"CO.C[N:1]1CCC(C#N)(C2=CC=CC=C2)CC1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8538,"C=[C+:1]C1=CC=CC=C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,7194,"CC(C)(CC#N)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2528,"C[O+](C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5)C=C1)[B-:1](Br)(Br)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5299,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CC1=CC=CC=C1.CCOC(=O)C(CC(C)=[O:3])C(=O)C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9271,"O[O:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8510,"C[CH:1]([H:2])[CH+:3]C.O=P(O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6634,"CC(C)(C)OC(=O)C1(C(=O)CC2=CC=CC=C2)NCC[C:1]2=[C:2]3C=CC=C[C:3]3=[NH+:4][C:5]12[H:6].[OH2:7]|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6600,"C=CC([O-])(OC(C)=O)[S+:1](CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1,"C1CC[NH:1]CC1.O=C(CNC(=O)OC[C:2]1([H:3])C2=C(C=CC=C2)C2=C1C=CC=C2)NC1=CC=C(Cl)C=C1I|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3853,"O.O=S(=O)([O-])O.OC1(C[NH2:1])CC2C=CC1O2.[N:2]#[O+:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4006,"CC(C)(C)OC(=O)N1CCC2=C3C=C(C(=O)[O-:1])NC3=CC=C21.CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.O=[N+]([O-])C1=CC=C(C[CH2:2][O:3][P+:4](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,7735,"C1CO[C:1](=[O:2])N1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2176,"C1=CC=C(N[NH2:1])C=C1.CC(=O)O.O=S(CCN1CCC2CC[C:2](=[O:3])CC21)C1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2610,"CO.COC1=C([NH3+])C=CC(C(OC)=[O+:1][H:2])=C1.O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2074,"C[N+:1](C)=[C:2]1OCCO1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,11,"CO[C:1](=[CH:2][CH:3]=[CH2:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6966,"C1CCC2=[N+:1]([H:2])CCCN2CC1.C=CCOC(=O)C(N=N[N-:3]S(=O)(=O)C1=CC=C(C)C=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7301,"CC(C)(C(C)(C)[OH:1])[O+:2]=[CH:3]C1=CC=C([N+](=O)[O-])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6022,"C[C:1]1=[CH:2]CCC1(C1=CC=CC=C1)C1=CC=CC=C1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,963,"CC(CCC(=O)C1=C(OCC2=CC=CC=C2)C=CC(Cl)=C1)(NC1=CC(S(N)(=O)=O)=CC=C1)[OH:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1.CC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4977,"CCN(CC)C(C)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7439,"O=C(C1=CC=CC=C1)[C:1]1([H:2])C=C(C2=CC=CC=C2)[O+:3]=[C:4]1C1=CC=CC=C1.O=S(=O)([O-])C(F)(F)F.[OH2:5]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1991,"CC(C)[C:1]1([H:2])OC=C(S(=O)(=O)O)[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8171,"CC1=CC=C(S(=O)(=O)OC(C)CC[O:1][Si-:2](C)(C)(C)F)C=C1|((2, 1), 1)"
train,pmechdb_split_0,0,5400,"C1=CC=NC=C1.CCOC(=O)C(NC(=O)CC(N)=N[OH:1])C1=CC=CC=C1.C[S:2](=O)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1572,"C[Si](C)(C)C[CH:1]=[CH2:2].O=C1CC2CCC[C:3]2=[N+:4]1C(C[O][Ti-]([Cl])([Cl])([Cl])[Cl])C1=CC=CC=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8856,"CC(=O)C1CCCC1(C)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3313,"C#CC(O)C1=CC=C(OCCCCC2=C[N:1]([C:2](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[CH:3]=[NH+:4]2)C=C1.CCO.O|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3351,"CO[C:1](=[CH:2]CC1=CC=CC=C1)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4761,"CC1C=C([O+]([Zn][I])[Si-:1](C)(C)(C)[I:2])CC(I)CC1|((1, 2), 2)"
train,pmechdb_split_0,0,3515,"CO[C:1](=[C:2](C)C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9996,"C=CCO[C:1]1=[CH:2]C=CC=C1.CC[CH+:3]OC1=CC=CC=C1|((1, 2), 3)"
train,pmechdb_split_0,0,776,"CCNCCC(NCC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2163,"COCC1C(O)C[CH:1]([N+:2]2=CC(C3CCCCC3)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5057,"CC(C)(C)[S:1](Cl)=[O:2].CCN(CC)CC.C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8274,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)C(SC)[OH+:1][H:2].O=C(C(F)(F)F)[O-:3].O=C(O)C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9478,"CCCC1CC(C2CCCCC2)C(OC(C)=[O:1])[CH:2]([O:3]S(=O)(=O)C2=CC=C(C)C=C2)C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3446,"CS(C)(Br)[OH+:1][H:2].[Br-:3]|(3, 2);((2, 1), 1)"
